US07470679B2
2-Bromo-5-fluorobenzenamine
To a solution of 1-bromo-4-fluoro-2-nitrobenzene (5.0 g, 22.7 mmol) in HOAc/EtOH (20 mL/20 mL) was added iron powder in one portion at room temperature. The mixture was bubbled with N2 for 5 min, and then refluxed for 2 hrs. Partial of the solvents were removed on rotary vacuum, then the residue was partitioned between aqueous NaOH (10N, 200 mL) and Et2O (200 mL). After separation, the organic phase was washed with H2O(50 mL), brine (50 mL), dried on MgSO4, and concentrated on rotary vacuum to afford the expected product, as an light tan oil (quantitative yield), which was pure enough to be used in next step without further purification; 1H NMR (400 MHz, CDCl3) δppm 4.15 (s, 1H), 6.34 (td, J=8.44, 2.77 Hz, 1H) ,6.46 (dd, J=10.20, 2.90 Hz, 1H), 7.31 (dd, J=8.81, 5.79 Hz, 1H); Mass spec. 189.94 (MH+), Calc. for C6H5BrFN 188.96.

reactant | 1-bromo-4-fluoro-2-nitrobenzene | 22.7 mmol, 5.0 g | BrC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
solvent | HOAc EtOH | 20 mL | CC(=O)O.CCO
catalyst | iron | [Fe] | Fe
product | 2-Bromo-5-fluorobenzenamine | BrC1=C(C=C(C=C1)F)N | C6H5BrFN
